data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_582695_1,[C:1]1([H:11])([H:12])[N:4]([C:2]([H:14])([H:15])[H:16])[C:6]2([C:3]([H:17])([H:18])[H:19])[C:7]1([H:13])[C:5]([O:8][H:10])=[N:9]2>>[C:1]1([H:11])([H:12])[N:4]([C:2]([H:14])([H:15])[H:16])[C:6]([C:3]([H:17])([H:18])[H:19])=[N:9][C:5]([O:8][H:10])=[C:7]1[H:13],22.48646250001258
MR_676696_1,[C:1]([N:2](/[C:3]([N:5]([H:10])[H:11])=[C:7](/[N:6]([H:12])[H:13])[H:14])[N:4]([H:8])[H:9])([H:15])([H:16])[H:17]>>[C:1]([C:7](/[C:3](=[N:2]/[N:4]([H:8])[H:9])[N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17],67.34518249996938
MR_200155_2,[C:1]([C:2]12[C:3]([H:9])([C:5]1([H:14])[H:15])[N:6]=[C:4]([H:10])[N:7]2[H:8])([H:11])([H:12])[H:13]>>[C:1]([C:2](/[C:3](=[N:6]\[C:4](=[N:7]\[H:8])[H:10])[H:9])=[C:5]([H:14])[H:15])([H:11])([H:12])[H:13],48.2836149999774
MR_233786_1,[C:1]1([H:12])([H:13])[C:4]([C:3]([H:16])([H:17])[H:18])([N:8]([C:2]([O:7][H:9])([H:14])[H:15])[N:5]([H:10])[H:11])[O:6]1>>[C:1]([C:2]([O:7][H:9])([H:14])[H:15])([O:6]/[C:4]([C:3]([H:16])([H:17])[H:18])=[N:8]/[N:5]([H:10])[H:11])([H:12])[H:13],69.28164749996697
MR_366756_0,[C:1]([C:4](=[C:5]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])/[N:6]=[N:7]\[H:8])([H:9])([H:10])[H:11]>>[C:1]([C:4]1=[N:6][N:7]([H:8])[C:5]1([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])([H:9])([H:10])[H:11],43.57422750002527
MR_179980_0,[C:1](/[C:4](=[C:3](\[N:2]([N:5]([H:11])[H:12])[H:10])[O:6][H:8])[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([C@@:4](/[C:3](=[N:2]/[N:5]([H:11])[H:12])[O:6][H:8])([O:7][H:9])[H:10])([H:13])([H:14])[H:15],49.79338000001789
MR_80964_2,[C:1]1([N:8]([H:11])[H:12])([O:9][C:4]([H:15])([H:16])[H:17])[C:2]([C:6]([H:21])([H:22])[H:23])([H:10])[N:7]([C:5]([H:18])([H:19])[H:20])[C:3]1([H:13])[H:14]>>[C:1]1([C:2]([C:6]([H:21])([H:22])[H:23])([O:9][C:4]([H:15])([H:16])[H:17])[H:10])([N:8]([H:11])[H:12])[C:3]([H:13])([H:14])[N:7]1[C:5]([H:18])([H:19])[H:20],72.2497224999995
MR_588707_1,[C:1]([C@:5]([N:3]([H:11])[H:12])([C@@:4]1([H:13])[C:2](=[C:6]([H:15])[H:16])[O:7]1)[H:14])([O:8][H:10])=[O:9]>>[C:1]([C:2](=[C:6]([H:15])[H:16])[O:7]/[C:4](=[C:5](\[N:3]([H:11])[H:12])[H:14])[H:13])([O:8][H:10])=[O:9],53.874012500023696
MR_470982_2,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:6]1([C:4]([H:19])([H:20])[H:21])/[C:5](=[N:8]/[H:11])[N:9]1[H:12])[O:7][H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:6](/[C:5]([C:4]([H:19])([H:20])[H:21])=[N:8]/[H:11])=[N:9]\[H:12])[O:7][H:10],64.2723149999874
MR_312212_2,[C:1](=[C:3]([N:6]([N:2]([H:7])[H:8])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:9])([H:10])[H:11]>>[C:1](/[C:3](=[N:6]/[N:2]([H:7])[H:8])[H:9])([C:4](=[C:5]([H:13])[H:14])[H:12])([H:10])[H:11],72.78937250002812
MR_104664_1,[C:1](/[N:7]=[N:5]/[N:6]=[C:2]([N:3]([H:8])[H:9])[N:4]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:7]1[C:2]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[N:6]=[N:5]1)([H:12])([H:13])[H:14],36.18604249998796
MR_279185_0,[C:1]([C:3]([H:12])([H:14])[H:15])([C:4]([H:13])([H:16])[H:17])([O:5][O:7][H:8])[O:6][C:2]([H:9])([H:10])[H:11]>>[C:1]([C:3]([H:12])([H:14])[H:15])([C:4]([H:13])([H:16])[H:17])([O:5][O:6][C:2]([H:9])([H:10])[H:11])[O:7][H:8],62.91942500001454
MR_71753_0,[N:1]([N:2]([H:6])[H:7])([C:3](=[C:4]([H:9])[H:10])[H:8])[H:5]>>[N:1](\[N:2]([H:6])[H:7])=[C:3](/[C:4]([H:5])([H:9])[H:10])[H:8],57.58692999999482
MR_484423_1,[C:1](/[N:8]=[C:3](/[N:2]([N:4]([H:9])[H:10])[N:7]=[C:6]([H:16])[H:17])[N:5]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:8](/[C:3](=[N:2]/[N:4]([H:9])[H:10])[N:5]([H:11])[H:12])[N:7]=[C:6]([H:16])[H:17])([H:13])([H:14])[H:15],67.92499249996794
MR_638370_1,[C:1]([C:5](/[C:4](=[C:3](\[N:6]([H:11])[H:12])[O:9][H:10])[N:7]([H:13])[H:14])=[C:8](/[C:2]([H:19])([H:20])[H:21])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:5]1=[C:4]([N:7]([H:13])[H:14])[C@:3]([N:6]([H:11])[H:12])([O:9][H:10])[C@@:8]1([C:2]([H:19])([H:20])[H:21])[H:15])([H:16])([H:17])[H:18],41.70176750000877
MR_461037_0,[C:1](\[C:2]([C:3]([H:17])([H:18])[H:19])([C:4]([N:6]([H:14])[H:15])([O:7][H:9])[N:8]([H:12])[H:16])[H:11])(=[N:5]/[H:13])[H:10]>>[C:1]([C:2]([C:3]([H:17])([H:18])[H:19])(/[C:4]([N:6]([H:14])[H:15])=[N:8]/[H:16])[H:11])([N:5]([H:12])[H:13])([O:7][H:9])[H:10],27.80138750000532
MR_98379_0,[C:1](/[C:3](=[C:2](/[O:4][N:5][N:6][H:7])[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C@:3]([C:2](=[O:4])[H:8])([N:5][N:6][H:7])[H:9])([H:10])([H:11])[H:12],21.52324999998328
MR_304696_1,[C:1](=[C:2]([N:5]([H:11])[H:12])[N:6]([H:13])[H:14])([C:3]([N:7]([H:15])[H:16])=[C:8]([H:17])[H:18])[N:4]([H:9])[H:10]>>[C:1]1([N:4]([H:9])[H:10])=[C:3]([N:7]([H:15])[H:16])[C:8]([H:17])([H:18])[C:2]1([N:5]([H:11])[H:12])[N:6]([H:13])[H:14],43.34393500000033
MR_160601_1,[C:1]([C:3]([C:2]([H:12])([H:13])[H:14])=[O:7])(/[N:6]=[N:5]/[N:4]([H:8])[H:9])([H:10])[H:11]>>[C:1](=[N:6][N:5]([C:3]([C:2]([H:12])([H:13])[H:14])=[O:7])[N:4]([H:8])[H:9])([H:10])[H:11],53.84640250002207
